US04325970
A mixture of 156 mg of (8R,11R,12S,15R,5Z,13E)-15-hydroxy-11,16,16-trimethyl-9-oxoprosta-5,13-dien-1-oic acid, 100 mg of acetic, anhydride, 21 mg of 4-(dimethylamino)pyridine, and 2 ml of triethylamine was stirred at room temperature under a positive nitrogen atmosphere. After 16 hr, the reaction mixture was partitioned between ethyl acetate-water and the organic layer separated, dried (MgSO4), and condensed by rotary evaporation. The residual material was purified by chromatography over Sephadex LH-20 (hydroxypropylated beaded dextran) using chloroform/hexane (3:2) as the eluant to yield 112 mg (65%) of (8R,11R,12S,15R,5Z,13E)-15-acetyloxy-11,16,16-trimethyl-9-oxoprosta-5,13-dien-1-oic acid. [α]D25 -78.52 (CHCl3, c 1.02).

reactant | (8R,11R,12S,15R,5Z,13E)-15-hydroxy-11,16,16-trimethyl-9-oxoprosta-5,13-dien-1-oic acid | 156 mg | O[C@H](/C=C/[C@@H]1[C@@H](CC([C@@H]1C\C=C/CCCC(=O)O)=O)C)C(CCCC)(C)C | C23H38O4
reactant | acetic, anhydride | 100 mg | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-(dimethylamino)pyridine | 21 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | (8R,11R,12S,15R,5Z,13E)-15-acetyloxy-11,16,16-trimethyl-9-oxoprosta-5,13-dien-1-oic acid | 112 mg, 65% | C(C)(=O)O[C@H](/C=C/[C@@H]1[C@@H](CC([C@@H]1C\C=C/CCCC(=O)O)=O)C)C(CCCC)(C)C | C25H40O5
